US06211215B1
In substantially the same manner as in Working Example 8, 1,2,3-triazole was allowed to react with 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl methanesulfonate. The reaction mixture was subjected to a silica gel column chromatography. From the fraction eluted with ethyl acetate-hexane (1:1, v/v), 2-[3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl]-2H-1,2,3-triazole was obtained. The yield was 35%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 103-104° C.

reactant | 1,2,3-triazole | N1N=NC=C1 | C2H3N3
reactant | 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl methanesulfonate | CS(=O)(=O)OCCCC1=CC=C(C=C1)OCC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C22H23NO5S
product | 2-[3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl]-2H-1,2,3-triazole | yield was 35% | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCN1N=CC=N1 | C23H22N4O2
